US08252935B2
a) 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (44.4 mg, 0.10 mmol) in CH3CN (5 ml) was added 2-Bromomethyl napthalene) (33 mg, 0.15 mmol) and diisopropylethylamine (35 μl, 0.20 mmol). The reaction was microwaved at 130° C. for 10 minutes, then diluted with EtOAc and washed with brine, sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product as a clear oil, (51 mg, 87%). Calcd for C37H40F3NO2 (M+H) 587.71, Found 588.5.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.10 mmol, 44.4 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 2-Bromomethyl napthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | diisopropylethylamine | 0.20 mmol, 35 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-[5-(1-naphthalen-2-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester | 51 mg, 87% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C37H40F3NO2
